US07531532B2
4-(4-Amino-3-fluorophenoxy)pyridin-2-ylamine
Sodium hydride (1.1 g) was suspended in dimethyl sulfoxide (60 ml) under a nitrogen stream, and 4-chloro-2-pyridinamine (2.9 g) described in WO 02/32872 and then 4-amino-3-fluorophenol (3.6 g, 28 mmol) were added thereto at room temperature while stirring, followed by stirring under a nitrogen stream at 150° C. for 9 hrs. The reaction mixture was cooled down to room temperature, and partitioned between 10% aqueous ammonia (150 ml) and ethyl acetate (350 ml). The organic layer was washed twice with 10% aqueous ammonia (150 ml). The combined aqueous layer was extracted with ethyl acetate (150 ml) again. The combined organic layer was washed twice with a saturated aqueous solution of sodium hydrogencarbonate (100 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:1, ethyl acetate, then ethyl acetate:methanol=10:1). Crude fractions containing the target compound were concentrated to give a residue, which was then purified by silica gel column chromatography (eluent; ethyl acetate). Fractions containing the target compound were concentrated to provide the titled compound (1.3 g, 26%) as a purple solid.

reactant | Sodium hydride | 1.1 g | [H-].[Na+]
reactant | 4-chloro-2-pyridinamine | 2.9 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | 4-amino-3-fluorophenol | 28 mmol, 3.6 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
solvent | dimethyl sulfoxide | 60 ml | CS(=O)C | C2H6OS
product | 4-(4-Amino-3-fluorophenoxy)pyridin-2-ylamine | 1.3 g, 26% | NC1=C(C=C(OC2=CC(=NC=C2)N)C=C1)F | C11H10FN3O
